US07482366B2
(4-Bromo-2-chloro-phenyl)-acetic acid methyl ester (705 mg, 2.68 mmoles) was place into a 25 mL pear-shaped flask and was sealed under nitrogen. The material was then solubilized with 20 mL of anhydrous DMSO, and the resulting solution was degassed by passing a steady stream of nitrogen through the solution for 10 min. In a separate round-bottom flask were combined bis(pinacolato)diboron (0.82 g, 3.2 mmoles), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with DCM (1:1) (66 mg, 0.081 mmoles) and potassium acetate (0.79 g, 8.05 mmoles) with a stirring bar under nitrogen. Following degassification the bromide solution was transferred to the “catalytic” mixture and the resulting mix was stirred at 90° C. for 16 hours. After this period the reaction mix was combined with 60 mL of water and was extracted with benzene (4×1 5 mL). The combined benzene layer was washed with water (4×25 mL) and was dried over anhydrous Na2SO4. Following evaporation in vacuo the crude product was purified using flash silica chromatography (0-10% EtOAc/Hexane) to yield [2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]acetic acid methyl ester (502 mg, 83% yield) as a thick, clear residue. Note: TLC visualization accomplished using ceric ammonium molybdate stain. 1H-NMR (CDCl3): δ 7.83-7.81 (br s, 1H), 7.65 (br d, J=7.6 Hz, 1H), 7.29 (d, J=7.3 Hz, 1H), 3.80 (s, 2H), 3.70 (s, 3H), 1.34 (s, 12H).

reactant | (4-Bromo-2-chloro-phenyl)-acetic acid methyl ester | 2.68 mmoles, 705 mg | COC(CC1=C(C=C(C=C1)Br)Cl)=O | C9H8BrClO2
reactant | bis(pinacolato)diboron | 3.2 mmoles, 0.82 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.081 mmoles, 66 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 8.05 mmoles, 0.79 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | [2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]acetic acid methyl ester | 502 mg, 83% yield | COC(CC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)Cl)=O | C15H20BClO4
